US05047411
Conc. hydrochloric acid (0.6 ml) was added to a solution of 6-[2-(7-ethoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole (1.0 g) in ethanol (6.0 ml) and the mixture was stirred for 1 hour at ambient temperature. The mixture was added to ethyl acetate (40 ml) and stirred. The resulting precipitate was collected by filtration and the residue was crystallized from a mixture of ethanol (6 ml) and ethyl acetate (3 ml) to give 6-[2-(7-ethoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole dihydrochloride (0.92 g).

reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | 6-[2-(7-ethoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole | 1.0 g | C(C)OC1=CC=2N(C=C1)C(=C(N2)CCC2=CC1=C(N=C(O1)N)C=C2)C | C19H20N4O2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 6.0 ml | C(C)O | C2H6O
product | 6-[2-(7-ethoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole dihydrochloride | 0.92 g | Cl.Cl.C(C)OC1=CC=2N(C=C1)C(=C(N2)CCC2=CC1=C(N=C(O1)N)C=C2)C | InChI=1S/C19H20N4O2.2ClH/c1-3-24-14-8-9-23-12(2)15(21-18(23)11-14)6-4-13-5-7-16-17(10-13)25-19(20)22-16;;/h5,7-11H,3-4,6H2,1-2H3,(H2,20,22);2*1H
